US08334397B2
After 469 g of a 70% by weight sorbitan aqueous solution (aldehyde value of sorbitan: 6.5 ppm) and 556 g of methyl laurate were charged into a 2000 mL four-neck flask fitted with a stirring apparatus, a thermometer, and a nitrogen gas inlet, dehydration was performed at 110° C. under a nitrogen stream at normal pressure for 1 hour and further at 110° C. under a nitrogen stream at 4 kPa for 1 hour. The whole was cooled to 65° C. and, after 35.4 g of a 5% by weight sodium methoxide methanol solution and 0.44 g of sodium hypophosphite were added thereto, was heated under a nitrogen stream at normal pressure to 150° C. as a reaction temperature. After the temperature reached 150° C., the reaction was carried out under a nitrogen stream at normal pressure. At the time point when the spot of methyl laurate as a raw material disappeared on thin-layer chromatography, it was judged that the reaction was completed. The reaction time was 8 hours and, after the completion of the reaction was confirmed, the product was filtrated at 80° C. to obtain sorbitan monolaurate.

reactant | sorbitan | C1C([C@@H](C(O1)C(CO)O)O)O | C6H12O5
reactant | methyl laurate | 556 g | C(CCCCCCCCCCC)(=O)OC | C13H26O2
reactant | sodium methoxide methanol | CO.C[O-].[Na+]
reactant | sodium hypophosphite | 0.44 g | [PH2](=O)[O-].[Na+]
product | sorbitan monolaurate | CCCCCCCCCCCC(=O)OCC([C@@H]1[C@@H]([C@H](CO1)O)O)O | C18H34O6
